US04465834
Preparation of 3-Quinuclidyl α-Cyclopentyl-α-phenylethynylglycolate
3-Quinuclidinol (3.8 g., 0.030 mole) and about 0.05 g. of sodium were refluxed in 50 ml. of toluene, in a flask equipped with a reflux head, until all the sodium reacted. Then, ethyl α-cyclopentyl-α-phenylethynylglycolate (5.4 g., 0.02 mole) in 35 ml. of solvent was added dropwise over an hour period. No temperature drop was noted in the reflux head. The reaction mixture was refluxed for about 18 hours and then about 40 ml. of solvent was distilled from the reaction flask over a four hour period. The reaction mixture was cooled, and dry 20°-40° petroleum ether was added. A tarry solid formed and was filtered. The solid was treated with hot hexane to yield 3.2 g. (45%) of crude product melting about 115° C. The pure compound, m.p. 137°-39°, was obtained by recrystallization from hexane.

reactant | 3-Quinuclidinol | 0.030 mole, 3.8 g | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium | [Na] | Na
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl α-cyclopentyl-α-phenylethynylglycolate | 0.02 mole, 5.4 g | C1(CCCC1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C17H20O3
solvent | hexane | CCCCCC | C6H14
product | 3-Quinuclidyl α-Cyclopentyl-α-phenylethynylglycolate | C1(CCCC1)C(C(=O)OC1CN2CCC1CC2)(O)C#CC2=CC=CC=C2 | C22H27NO3
